* source HL3_TELESTIKOS_9671
M_M1         N00760 0 N00772 N00772 MbreakN  
+ L=1u  
+ W=8u         
M_M2         N00768 N00825 N00772 N00772 MbreakN  
+ L=1u  
+ W=8u         
M_M3         N00760 N00760 N00923 N00923 MbreakP  
+ L=1u  
+ W=1u         
M_M4         N00768 N00760 N00923 N00923 MbreakP  
+ L=1u  
+ W=1u         
M_M5         N00772 N01071 N01079 N01079 MbreakN  
+ L=1u  
+ W=1u         
M_M6         N00865 N00768 N00923 N00923 MbreakP  
+ L=1u  
+ W=13u         
M_M7         N00865 N01071 N01079 N01079 MbreakN  
+ L=1u  
+ W=6u         
M_M8         N01071 N01071 N01079 N01079 MbreakN  
+ L=1u  
+ W=1u         
C_Cc         N00768 N00865  0.5962p  TC=0,0 
C_CL         0 N00865  2.71p  TC=0,0 
I_Ib         N00923 N01071 DC 62uAdc  
V_Vdd         N00923 0 2.013Vdc
V_Vss         0 N01079 2.013Vdc
V_V1         0 N00825 DC 0Vdc AC 1Vac 
